### PR TITLE
feat: proof of Myhill-Nerode theorem for DFAs

### PR DESCRIPTION
**Pull request by akhilesh-balaji**
This PR adds a proof of the Myhill-Nerode theorem. It builds on the definition of right congruence (and associated definitions and theorems) in #278. These are the main results shown (the statement of the theorem has been taken from [Wikipedia](https://en.wikipedia.org/wiki/Myhill–Nerode_theorem) and amended slightly):

(1) `L` regular iff. `∼_L` (distinguishability by `L`, also called the Nerode
congruence) has a finite number of equivalence classes `N`.
(2) `N` is the number of states in the minimal DFA accepting `L`.
(3) The minimal DFA is unique up to unique isomorphism. That is, for any
    minimal DFA acceptor, there exists exactly one isomorphism from it to the
    following one:

  > Let each equivalence class `⟦ x ⟧` correspond to a state, and let state
  transitions be `a : ⟦ x ⟧ → ⟦ x a ⟧` for each `a ∈ Σ`.
  Let the starting state be `⟦ ϵ ⟧`, and the accepting states be `⟦ x ⟧` where
  `x ∈ L`.

### CODE REVIEW

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 1]
```diff
@@ -0,0 +1,252 @@
+/-
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Even though Automata.DA is used in the proofs, I think this file should be put in `Cslib/Computability/Languages` because it contains results about regular languages in general.

Also, please run `lake exe mk_all --module`, so that the new file can be added to `Cslib.lean`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 2]
```diff
@@ -0,0 +1,252 @@
...
+  transitions be `a : ⟦ x ⟧ → ⟦ x a ⟧` for each `a ∈ Σ`.
+  Let the starting state be `⟦ ϵ ⟧`, and the accepting states be `⟦ x ⟧` where
+  `x ∈ L`.
+
+## References
+
+* [J. E. Hopcroft, R. Motwani, J. D. Ullman,
+  *Introduction to Automata Theory, Languages, and Computation*][Hopcroft2006]
+* [T. Malkin, *COMS W3261: Computer Science Theory, Handout 3: The Myhill-Nerode Theorem
+   and Implications*][Malkin2024]
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Please add this reference to `references.bib`.  Or perhaps the Wikipedia page suffices?
https://en.wikipedia.org/wiki/Myhill–Nerode_theorem

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 3]
```diff
@@ -0,0 +1,252 @@
...
+
+module
+
+public import Cslib.Computability.Automata.DA.Basic
+public import Cslib.Computability.Automata.DA.Congr
+public import Cslib.Computability.Languages.RegularLanguage
+public import Cslib.Computability.Languages.Congruences.RightCongruence
+public import Mathlib.Computability.Language
+public import Mathlib.Data.Fintype.Card
+public import Mathlib.CategoryTheory.Iso
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: You only need:
```
public import Cslib.Computability.Languages.RegularLanguage
```
You can find this out by running `#min_imports` at the end of the file.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 4]
```diff
@@ -0,0 +1,252 @@
...
+* [T. Malkin, *COMS W3261: Computer Science Theory, Handout 3: The Myhill-Nerode Theorem
+   and Implications*][Malkin2024]
+-/
+
+namespace Cslib
+
+open Cslib
+open scoped RightCongruence
+
+open Language
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Merge this `open` with the `open Acceptor` below.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 5]
```diff
@@ -0,0 +1,252 @@
...
+
+namespace Automata.DA
+open Acceptor
+
+variable {α : Type} {l m : Language α}
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Replace `Type` by `Type*` for more generality.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 6]
```diff
@@ -0,0 +1,252 @@
...
+  r x y := ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l
+  iseqv := ⟨fun _ _ => Iff.rfl, fun h z => (h z).symm, fun h_1 h_2 z => (h_1 z).trans (h_2 z)⟩
+  right_cov := ⟨fun a {x y} (h : ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l) z =>
+    List.append_assoc x a z ▸ List.append_assoc y a z ▸ h (a ++ z)⟩
+
+/-- The Nerode congruence of a language `l` gives rise to a DFA where each state corresponds to an
+equivalence class of the language under the Nerode congruence. Note that this is simply the DFA
+given rise to by the underlying right congruence with only the accept states specified here as
+`{⟦ x ⟧ | x ∈ l}`. -/
+def NerodeCongruence.toFinAcc (l : Language α) :
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Remove redundant space at the end of the line.  You should be able to configure your editor to do that automatically.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 7]
```diff
@@ -0,0 +1,252 @@
...
+
+namespace Automata.DA
+open Acceptor
+
+variable {α : Type} {l m : Language α}
+
+/-- The Nerode congruence of a language `l` is a right congruence on strings where two
+strings are related iff. all their right extensions are either both in the language
+or both not in it. -/
+def NerodeCongruence (l : Language α) : RightCongruence α where
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Replace `def` by `instance`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 8]
```diff
@@ -0,0 +1,252 @@
...
+  r x y := ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l
+  iseqv := ⟨fun _ _ => Iff.rfl, fun h z => (h z).symm, fun h_1 h_2 z => (h_1 z).trans (h_2 z)⟩
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: I think it is clearer to split this line into three lines:
```
  iseqv.refl := fun _ _ => Iff.rfl
  iseqv.symm := fun h z => (h z).symm
  iseqv.trans := fun h_1 h_2 z => (h_1 z).trans (h_2 z)
```

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 9]
```diff
@@ -0,0 +1,252 @@
...
+
+/-- The Nerode congruence of a language `l` gives rise to a DFA where each state corresponds to an
+equivalence class of the language under the Nerode congruence. Note that this is simply the DFA
+given rise to by the underlying right congruence with only the accept states specified here as
+`{⟦ x ⟧ | x ∈ l}`. -/
+def NerodeCongruence.toFinAcc (l : Language α) : 
+    DA.FinAcc (Quotient (NerodeCongruence l).eq) α :=
+  letI c := NerodeCongruence l
+  { c.toDA with
+    accept := {q | Quotient.lift (fun x => x ∈ l) (by
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Replace `(fun x => x ∈ l)` by `(· ∈ l)`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 10]
```diff
@@ -0,0 +1,252 @@
...
+  right_cov := ⟨fun a {x y} (h : ∀ z, x ++ z ∈ l ↔ y ++ z ∈ l) z =>
+    List.append_assoc x a z ▸ List.append_assoc y a z ▸ h (a ++ z)⟩
+
+/-- The Nerode congruence of a language `l` gives rise to a DFA where each state corresponds to an
+equivalence class of the language under the Nerode congruence. Note that this is simply the DFA
+given rise to by the underlying right congruence with only the accept states specified here as
+`{⟦ x ⟧ | x ∈ l}`. -/
+def NerodeCongruence.toFinAcc (l : Language α) : 
+    DA.FinAcc (Quotient (NerodeCongruence l).eq) α :=
+  letI c := NerodeCongruence l
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: I don't think you need this local definition.  `c` is used only once below.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 11]
```diff
@@ -0,0 +1,252 @@
...
+
+namespace Cslib
+
+open Cslib
+open scoped RightCongruence
+
+open Language
+
+namespace Automata.DA
+open Acceptor
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: I think the proper namespace to use is `Language`, not `Cslib.Automata.DA` or `Cslib.Language`.  Note that you definitions below takes a `Language` argument.  By using the `Language` namespace, you can wrote `l.NerodeCongruence` and `l.toFinAcc` for `l : Language α`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 12]
```diff
@@ -0,0 +1,252 @@
...
+equivalence class of the language under the Nerode congruence. Note that this is simply the DFA
+given rise to by the underlying right congruence with only the accept states specified here as
+`{⟦ x ⟧ | x ∈ l}`. -/
+def NerodeCongruence.toFinAcc (l : Language α) : 
+    DA.FinAcc (Quotient (NerodeCongruence l).eq) α :=
+  letI c := NerodeCongruence l
+  { c.toDA with
+    accept := {q | Quotient.lift (fun x => x ∈ l) (by
+      intro x y hxy
+      simpa using hxy []) q} }
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Why not take your own comment seriously and write this?
```
accept := (⟦·⟧) '' l
```
To be sure, you will need to modify some of your proofs with this alternative definition.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 13]
```diff
@@ -0,0 +1,252 @@
...
+
+/-- The DFA constructed from the Nerode congruence on `l` accepts `l`. -/
+@[simp, scoped grind =]
+theorem nerodecongruence_to_finacc_acc (l : Language α) :
+    language (NerodeCongruence.toFinAcc l) = l := by
+      ext x
+      simp [NerodeCongruence.toFinAcc, language, Acceptor.Accepts]
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Lean complains about `simp` here and you should use `simp only` instead.  Use `simp?` to figure out what `simp only` lemmas you need.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 14]
```diff
@@ -0,0 +1,252 @@
...
+  letI c := NerodeCongruence l
+  { c.toDA with
+    accept := {q | Quotient.lift (fun x => x ∈ l) (by
+      intro x y hxy
+      simpa using hxy []) q} }
+
+/-- The DFA constructed from the Nerode congruence on `l` accepts `l`. -/
+@[simp, scoped grind =]
+theorem nerodecongruence_to_finacc_acc (l : Language α) :
+    language (NerodeCongruence.toFinAcc l) = l := by
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: It seems to me that this theorem should follow from `congr_language_eq`, or at least makes use of it.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 15]
```diff
@@ -0,0 +1,252 @@
...
+/-- `l` is regular if and only if `l/c` is finite. -/
+@[simp, scoped grind =]
+theorem IsRegular_iff_finite_eqv_cls_wrt_nerode {l : Language α} :
+    l.IsRegular ↔ Finite (Quotient (NerodeCongruence l).eq) := by
+    constructor
+    · intro h
+      exact IsRegular.finite_range_nerode_quotient h
+    · intro h
+      refine IsRegular.iff_dfa.mpr ⟨Quotient (NerodeCongruence l).eq, h,
+          NerodeCongruence.toFinAcc l, nerodecongruence_to_finacc_acc l⟩
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: This direction should follow from `IsRegular.congr_fin_index`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 16]
```diff
@@ -0,0 +1,252 @@
...
+--
+
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: General comment: in cslib's automata theory, we have consistently used `Finite T` and `Set T`, rather than `Fintype T` and `Finset T`.  Can we conform to that style?

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 17]
```diff
@@ -0,0 +1,252 @@
...
+/-- Given a set of strings all distinguishable by `l` (i.e., not related to each other by `c`),
+the number of states in the DFA accepting `l` is at least the number of strings in the set. -/
+@[simp]
+theorem lower_bound_num_states_dfa_acc {l : Language α} {M : DA.FinAcc States α}
+  {ws : Finset (List α)} (hws : ∀ x ∈ ws, ∀ y ∈ ws, x ≠ y → ¬(NerodeCongruence l).r x y)
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Consider using `Set.Pairwise` to shorten the type of `hws`:
https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Pairwise.html#Set.Pairwise

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 18]
```diff
@@ -0,0 +1,252 @@
...
+  (hM : language M = l) [Fintype States] :
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Put `[...]` arguments toward the front of the argument list.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 19]
```diff
@@ -0,0 +1,252 @@
...
+--
+
+/-- The minimal DFA accepting `l` has `|l/c|` states. -/
+def IsMinimalAutomaton (M : DA.FinAcc States α)
+  [Fintype States] [Fintype (Quotient (NerodeCongruence (language M)).eq)] :=
+    Fintype.card States = Fintype.card (Quotient (NerodeCongruence (language M)).eq)
+
+/-- Given a DFA `M`, two strings are related iff. they reach the same state under when run through
+`M`. The Nerode congruence is the state congruence wrt. the minimal DFA accepting `l`. -/
+def StateCongruence (M : DA.FinAcc States α) : RightCongruence α where
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Replace `def` by `instance`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 20]
```diff
@@ -0,0 +1,252 @@
...
+      have hws : ∀ x ∈ ws, ∀ y ∈ ws, x ≠ y → ¬(NerodeCongruence (language M)).r x y := by
+        simp only [ws, Finset.mem_image, Finset.mem_univ, true_and]
+        rintro _ ⟨qx, rfl⟩ _ ⟨qy, rfl⟩ hne h
+        exact hne (by simpa using Quotient.sound h)
+      have card_hws_eq_num_eqv_clss : ws.card = Fintype.card
+                (Quotient (NerodeCongruence (language M)).eq) := by
+        simp [ws, Finset.card_image_of_injective _ Quotient.out_injective]
+      exact card_hws_eq_num_eqv_clss ▸ lower_bound_num_states_dfa_acc hws rfl
+--
+
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: The proper namespace from this point on should be `Cslib.Automata.DA`, not `Language`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 21]
```diff
@@ -0,0 +1,252 @@
...
+/-- The minimal DFA accepting `l` has `|l/c|` states. -/
+def IsMinimalAutomaton (M : DA.FinAcc States α)
+  [Fintype States] [Fintype (Quotient (NerodeCongruence (language M)).eq)] :=
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: The finiteness assumption on the quotient type is redundant: since M's state type is finite, `language M` must be regular, which implies its Nerode congruence has finite index.  You have proved this above.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 22]
```diff
@@ -0,0 +1,252 @@
...
+    DA.FinAcc (Quotient (NerodeCongruence l).eq) α :=
+  letI c := NerodeCongruence l
+  { c.toDA with
+    accept := {q | Quotient.lift (fun x => x ∈ l) (by
+      intro x y hxy
+      simpa using hxy []) q} }
+
+/-- The DFA constructed from the Nerode congruence on `l` accepts `l`. -/
+@[simp, scoped grind =]
+theorem nerodecongruence_to_finacc_acc (l : Language α) :
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: The name of this theorem should probably be `nerodeCongruence_language_eq`, to be consistent with other similar theorems.  Note that you should keep the camel case in `nerodeCongruence` in this all subsequent theorems.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 23]
```diff
@@ -0,0 +1,252 @@
...
+  r x y := ∀ z, M.mtr M.start (x ++ z) = M.mtr M.start (y ++ z)
+  iseqv := ⟨by intro x z; rfl, by intro x y h z; symm; exact h z,
+      by intro x y z h_1 h_2 w; exact (h_1 w).trans (h_2 w)⟩
+  right_cov := ⟨by
+        intro a x y h z
+        simpa [List.append_assoc, FLTS.mtr_concat_eq] using h (a ++ z)⟩
+
+/-- The Nerode congruence is the most coarse state congruence given a language. -/
+@[simp]
+theorem statecongruence_refines_nerodecongruence {M : DA.FinAcc States α} :
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: Camel case: `stateCongruence`, `nerodeCongruence`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 24]
```diff
@@ -0,0 +1,252 @@
...
+
+/-- Every equivalence class of `l` under a Nerode congruence is a union of one or more equivalence
+classes from the state congruence of a DFA accepting `l`. -/
+@[simp]
+theorem nerodecongruence_eqv_cls_eq_union_statecongruence_eqv_clss
+    {M : DA.FinAcc States α} (Q : Quotient (NerodeCongruence (language M)).eq) :
+    {x : List α | (⟦ x ⟧ : Quotient (NerodeCongruence (language M)).eq) = Q} =
+      ⋃ (R : Quotient (StateCongruence M).eq)
+        (_ : (⟦ Quotient.out R ⟧ : Quotient (NerodeCongruence (language M)).eq) = Q),
+        {x | (⟦ x ⟧ : Quotient (StateCongruence M).eq) = R} := by
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: First, I find the statement of this theorem very hard to read.  Can you find a better phrasing?

Second, this is really a general fact about `Setoid`, isn't it?  If one `Setoid` is a refinement of another in the sense of the previous theorem, then their equivalence classes must be related in this manner.  Can you find and prove a suitably general proposition in terms of `Setoid`?  Perhaps there is something in mathlib already?  Please pose this question on Zulip if you can't find anything on mathlib.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 25]
```diff
@@ -0,0 +1,252 @@
...
+        rintro _ ⟨qx, rfl⟩ _ ⟨qy, rfl⟩ hne h
+        exact hne (by simpa using Quotient.sound h)
+      have card_hws_eq_num_eqv_clss : ws.card = Fintype.card
+                (Quotient (NerodeCongruence (language M)).eq) := by
+        simp [ws, Finset.card_image_of_injective _ Quotient.out_injective]
+      exact card_hws_eq_num_eqv_clss ▸ lower_bound_num_states_dfa_acc hws rfl
+--
+
+/-- The minimal DFA accepting `l` has `|l/c|` states. -/
+def IsMinimalAutomaton (M : DA.FinAcc States α)
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: I would add a second argument `(l : Language α)` so that `M.IsMinimalAutomaton l` means `M` is a minimal automaton accepting `l`.  This would make the statement of the theorem `unique_minimal_dfa` below more natural.  Also, instead of the finiteness assumption on the quotient type, you assume `l` is regular, from which it follows that the Nerode congruence of `l` has finite index.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean [hunk 26]
```diff
@@ -0,0 +1,252 @@
...
+      (Quotient.eq.mp (hRQ.trans (Quotient.out_eq Q).symm)))
+
+-- Myhill-Nerode (3)
+
+/-- The minimal DFA `M` accepting `l` is unique up to unique isomorphism. -/
+@[simp]
+theorem unique_minimal_dfa (M : DA.FinAcc States α) [Fintype States]
+    [Fintype (Quotient (NerodeCongruence (language M)).eq)] (hMin : IsMinimalAutomaton M) :
+    ∃! φ : States ≃ Quotient (NerodeCongruence (language M)).eq,
+      ∀ x, φ (M.mtr M.start x) = ⟦ x ⟧ := by
```
Comment (ctchou) [inline Cslib/Computability/Automata/DA/MyhillNerode.lean]: See my comment about `IsMinimalAutomaton` above.  By replacing `language M` by `l`, you also make the formal statement closer to your informal comment above.  Instead of the finiteness assumption on the quotient type, you assume `l` is regular.

**Review by ctchou — CHANGES_REQUESTED** [review]
Very nice work!  Please take a look my comments and make appropriate changes.  I'll probably have more comments after those changes are made.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean (hunk 24 above)
Comment (akhilesh-balaji) [reply Cslib/Computability/Automata/DA/MyhillNerode.lean]: I had originally added this theorem thinking I would use it in the proof of `unique_minimal_dfa`, but I ended up not using it and did not remove it. Yes, this is a general statement about `Setoid`s, and I will prove this generally.

But either way, I should probably remove this theorem from the file as it's not used anywhere and is unrelated to the proofs of Myhill-Nerode presented here.

I can't find anything similar in mathlib, so perhaps the general version of this belongs there.

Comment (ctchou) [reply Cslib/Computability/Automata/DA/MyhillNerode.lean]: You can put general definitions and results about `Setoid` in a file under the directory `Cslib/Foundations/Data/Setoid`.  We have done similar things for `Set`.

File: Cslib/Computability/Automata/DA/MyhillNerode.lean (hunk 15 above)
Comment (akhilesh-balaji) [reply Cslib/Computability/Automata/DA/MyhillNerode.lean]: Isn't it sufficient to show that a DFA can be constructed for the regularity to be shown? Wouldn't using `IsRegular.congr_fin_index` complicate the proof more?

**Comment by akhilesh-balaji** [comment]
Thank you for the review. I have addressed all of the comments, except the following one:

> It seems to me that this theorem should follow from `congr_language_eq`, or at least makes use of it.

`congr_language_eq` seems to be only applicable to DAs with a single accepting state. Perhaps using this theorem would complicate the proof rather than making it simpler.

Also, I have tried to put `[...]` arguments closer to the beginning, but in arguments like `[Finite (Quotient ((language M).NerodeCongruence).eq)]`, the argument `(M : ...)` needs to appear at the beginning. Should I refactor it slightly to make use of the regularity of the acceptance language rather than the finiteness of the quotient?

Please let me know what you think.

**Comment by chenson2018** [comment]
@ctchou Did you mean to close this? Maybe an accidental force push?

**Comment by ctchou** [comment]
Sorry, I did something stupid and am trying to fix it now.  Please stay tuned.

**Comment by chenson2018** [comment]
This is part of why I pretty much never force-push, especially to a public branch involved in a PR. @akhilesh-balaji could maybe also just (force) push again or reopen themselves if need be.

**Comment by ctchou** [comment]
@akhilesh-balaji  I'm very sorry for messing up your PR.  I did some golfing for you, which you can find in the "myhill-nerode" branch of my cslib fork:
https://github.com/ctchou/cslib/tree/myhill-nerode
To fix this PR, you can fetch the above branch and then force-push it to this PR.  My branch has just one commit above what you had, which contains my golfing.

In the future, please do not open a PR using the "main" branch.  This is very error-prone and contributed to the mistake I made.

**Comment by ctchou** [comment]
@akhilesh-balaji  If you have trouble re-opening this PR, just open a new one and we can proceed from there.  Please do not use "main" again when you open a new PR.

**Comment by chenson2018** [comment]
> @akhilesh-balaji If you have trouble re-opening this PR, just open a new one and we can proceed from there. Please do not use "main" again when you open a new PR.

Yes, I'd normally be able to fix myself, but I think it is easiest to just reopen from a branch not named `main`. Sorry for the trouble, some of this was from our end!
